Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Macrodantin
 
Attending: ___.
 
Chief Complaint:
right visual field cut 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ woman with past medical history
of left corona radiata ischemic infarct thought to be ___ HTN,
amyloid angiopathy (per ___ records), hypertension
hyperlipidemia who presents after referral from her
ophthalmologist for a right inferior quadrantanopia.
The patient reports that she was in her usual state of health
until yesterday.  She does not know exactly when she started
noticing visual symptoms yesterday afternoon but certainly by 3
___ she noted that she was having a hard time seeing when she
looked down into the right.   at this time, she did not do
anything about this because she thought it might just be her
usual visual migraine.  Her usual migraine aura is like ___ with lots of bright flashing lights, but she has
experienced this in quite a while.  Yesterday, the symptoms she
was experiencing were not like her usual visual aura.  This
morning when patient woke up, her symptoms persisted so she went
to see her ophthalmologist.  They did visual field testing and
send her directly to the ED as they found a right homonymous
inferior quadrantanopia on her visual field testing.

In terms of her prior stroke, she was seen at ___ in
___.  After the stroke, she was started on metoprolol
which did not agree with her because she felt it was causing her
to gain weight and she was switched to labetalol eventually, as
well as aspirin and atorvastatin.  She had GI upset with the
aspirin and atorvastatin initially discontinued the atorvastatin
but continued to experience GI side effects so in conjunction
with her primary care she discontinued the aspirin as well a few
months ago.

Per the ___ records, patient presented with dysarthria
and by MRI found to have Left corona radiata ischemic infarct
with evidence of remote ischemic injury in the brainstem. 
Appearance of MRI most consistent with long-standing 
uncontrolled
HTN. There notes report she had amyloid angiopathy seen on MRI
brain, as well as evidence of chronic demyelinating disease on 
CT
and MRI. Bubble ECHO normal. TSH 3.24. ESR 33. No carotid
ultrasound was done. They discussed not starting ___ as
patient was high risk for bleed, so patient was discharged on
Aspirin 81mg. She was also given metoprolol and a statin.  
 
On neuro ROS, the pt denies headache, complete loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

Patient does endorse significant anxiety surrounding all medical
discussions. 
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  

 
Past Medical History:
Ischemic infarct around ___ ___
High blood pressure
Cholesterol
Migraine with aura
Amyloid angiopathy per report
?demyelinating disease
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISISON PHYSICAL EXAM:
==========================
Physical Exam:
Vitals: T: 98.3 HR 78 BP 180/78 RR 18 SaO2 99% RA 
General: Awake, patient anxious appearing, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Patient has difficulty
providing details regarding her symptoms yesterday.  She is 
often
tangential, and gets easily.  Slow to answer questions. 
Attentive to examiner. Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors.  Patient can name pen, watch but not the face of the
watch. Speech was not dysarthric. Able to follow both midline 
and
appendicular commands. There was no evidence of neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. right homonymous inferior
quadrantanopia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5   5    5   5    ___   5    5     5     5   
R  5   5    5   5    ___   5    5     5     5   

-Sensory: No deficits to light touch, vibratory sense,
throughout. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2+ 2    2    3   1
R  2+ 2    2    3   1
No pectoral spread or crossed adductors. 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred, patient going for imaging.

DISCHARGE PHYSICAL EXAM:
======================== 
-VITALS: ___ 1221 Temp: 97.5 PO BP: 168/88 HR: 76 RR: 18 O2
sat: 97% O2 delivery: Ra 
-GEN: no acute distress, sitting by window alongside husband
-___: NC/AT
-NECK: Supple
-CV: Well perfused. 
-PULM: Breathing comfortably on room air.  
-ABD: Soft, NT/ND. 
-EXT: no cyanosis, clubbing, or edema

-MS: Alert and oriented. Language fluent. Able to discuss 
history
in detail. No dysarthria.
-CN: PERRL, EOMI. left eye: ___ -2; right eye: ___. Right
inferior quadrantanopia. Face symmetric. No dysarthria. 
-MOT: Deltoids, biceps, triceps, IPs ___ bilaterally. 
-___: Intact to light touch in all 4 extremities. 

 
Pertinent Results:
LABS: 

___ 05:10AM BLOOD WBC-6.7 RBC-4.33 Hgb-13.5 Hct-38.2 MCV-88 
MCH-31.2 MCHC-35.3 RDW-11.9 RDWSD-38.6 Plt ___
___ 06:48PM BLOOD Neuts-76.6* Lymphs-15.4* Monos-6.7 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-7.08* AbsLymp-1.42 
AbsMono-0.62 AbsEos-0.07 AbsBaso-0.02
___ 05:10AM BLOOD Glucose-104* UreaN-23* Creat-1.1 Na-141 
K-4.6 Cl-103 HCO3-27 AnGap-11
___ 06:48PM BLOOD ALT-42* AST-25 AlkPhos-98 TotBili-0.5
___ 06:48PM BLOOD Triglyc-255* HDL-44 CHOL/HD-5.9 
LDLcalc-163* LDLmeas-163*
___ 06:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING: 
CT Head/ CTA Head and neck: 
NONCONTRAST CT HEAD: There is no acute vascular territorial
infarction or 
intracranial hemorrhage. Hypodensities in the subcortical and
periventricular 
white matter are nonspecific, scratch likely the sequelae of
chronic small 
vessel ischemic disease. 
  
CTA HEAD AND NECK: Bilateral carotid and vertebral arteries are
patent without  evidence of stenosis, occlusion, or dissection. 
The vessels of the circle  ___ and their principal 
intracranial branches are patent without evidence of occlusion 
or aneurysm greater than 3 mm. There is a right fetal origin 
PCA. 

MRI Brain: 
1. Acute infarct in the left peritrigonal/periventricular white 
matter.
2. Multiple bilateral periventricular white-matter probable 
demyelinating
lesions, including 1 involving the midline splenium of the 
corpus callosum. 
No enhancement.
3. Probable 7-8 mm right frontal meningioma.
4. Numerous small foci of predominately lobar microhemorrhage 
likely
representing amyloid angiopathy.

TTE:
Normal biventricular cavity sizes, regional/global systolic 
function. No valvular pathology or
pathologic flow identified. Normal estimated pulmonary artery 
systolic pressure.

 
Brief Hospital Course:
___ is a ___ woman with a past medical 
history of left corona radiata ischemic infarct thought to be 
___ HTN, amyloid angiopathy (per ___ records where she 
was hospitalized for this first stroke), hypertension, 
hyperlipidemia who presents after referral from her 
ophthalmologist for a right inferior quadrantanopia. She was 
evaluated in the ER by neurology and underwent a head CT and CTA 
head and neck that was without abnormality. She was subsequently 
admitted to the stroke service for further evaluation and 
work-up. 

#R inferior quadrantanopia: 
-Patient was admitted to stroke service. On examination, she was 
found to have a R inferior quadrantanopia that improved 
throughout her hospital stay. MRI found acute left paratrigonal 
infarct, lobar microhemorrhages suggestive of amyloid angiopathy 
and possible demyelinating disease given that she had 
significant periventricular T2/FLAIR hyperintense lesion. 
-For these lesions, the patient had B12, ___, lupus, 
anticardiolipin, lyme, testing in the serum. ___, lupus, b12 
studies negative at time of discharge, the rest were pending.
-The patient was seen for the first time by At___ Neurologist 
Dr. ___. She will follow-up with the patient 
regarding the demyelination vs. vascular stroke lesions for 
further work-up upon discharge 
-As the patient was taking aspirin 81mg daily in the past and 
had a new stroke, she was transitioned to ___ 75mg daily. 
-TTE was done and showed no abnormalities
-Telemetry did not show any afib throughout her hospital stay. 
Given the appearance of her MRI with many areas suggestive of 
prior stroke, she needs prolonged heart monitoring. We contacted 
her outpatient neurologist Dr. ___ placed an order for a 
holter monitor. 
-The patient also saw OT who recommended outpatient OT for 
vision changes, was provided with script prior to discharge.

#Hypertension: 
-Patient's labetalol was cut from 100mg BID to 50mg BID while 
she was admitted for autoregulation of pressure in the setting 
of acute infarct. She was re-started on her home dose of 
labetalol on discharge 

#Hyperlipidemia: 
-Patient's LDL was 163. She was started on atorvastatin 40 mg 
daily 

Transitional Issues: 
[] please follow-up beta-2-glycoprotein, cardiolipin, lymes 
studies for demyelination workup
[] if visual symptoms recur or worsen, may consider EEG testing

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 163) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Labetalol 100 mg PO BID 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Labetalol 100 mg PO BID  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left peritrigonal/periventricular white matter.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
 
 You were hospitalized due to symptoms of visual difficulties 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 
 1. Hypertension 
 2. High Cholesterol 
 
 We are changing your medications as follows:  
 1. ___ 75mg daily  
 Please take your other medications as prescribed.

Please follow-up with your neurologist Dr. ___ at 
___ neurology on ___ at 2:30pm.

 We discussed your case with Dr. ___ order a 
holter monitor for you to wear for a few weeks so we can monitor 
your heart rhythm for a prolonged time. As this is your second 
stroke, we need to look for irregular heart rhythms that could 
help explain why you are having multiple strokes. 

In addition, we would like for your to follow-up with your PCP 
___ 7 -10 days. 

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you! 

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___